US09212190B2
A 50-mL round-bottom flask, purged and maintained with an inert atmosphere of nitrogen, was charged with a solution of tert-butyl N-(1-ethyl-4-[[(3R)-3-[(2R)-2-hydroxypropyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)carbamate (160 mg, 0.34 mmol, 1.00 equiv) in dichloromethane (6 mL) at 0° C. Then hydrochloric acid (conc., 0.5 mL) was added at this temperature and stirred for 2 h at room temperature. The reaction solution was concentrated under vacuum to give 150 mg (crude) of (2R)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propan-2-ol hydrochloride as a white solid.

reactant | tert-butyl N-(1-ethyl-4-[[(3R)-3-[(2R)-2-hydroxypropyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.34 mmol, 160 mg, 1.00 equiv | C(C)C1(CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)C[C@@H](C)O)NC(OC(C)(C)C)=O | C25H37N3O4S
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (2R)-1-[(3R)-12-[(4-amino-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]propan-2-ol hydrochloride | 150 mg | Cl.NC1(CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)C[C@@H](C)O)CC | InChI=1S/C20H29N3O2S.ClH/c1-3-20(21)8-6-14(7-9-20)25-18-17-16-13(10-12(2)24)4-5-15(16)26-19(17)23-11-22-18;/h11-14,24H,3-10,21H2,1-2H3;1H/t12-,13-,14?,20?;/m1./s1
